US08557830B2
A suspension of 6-chloro-9H-purine (25.36 g, 164 mmol) and 4-methylbenzenesulfonic acid (0.565 g, 3.28 mmol) in EtOAc (250 mL) was treated with 3,4-dihydro-2H-pyran (44.9 mL, 492 mmol). The mixture was heated at 90° C. and the solid slowly dissolved over 1 h. The flask was removed from the oil bath and the cloudy, yellow solution was filtered and concentrated in vacuo. The pale yellow residue was dissolved in DCM and purified by flash chromatography (50% EtOAc/hexane) (1 L silica/4 L solvent) to give 6-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (38.90 g, 99.3% yield) as a colorless oil which slowly crystallized. MS (ESI, pos. ion) m/z: 239.1 [M+H]+

reactant | 6-chloro-9H-purine | 164 mmol, 25.36 g | ClC1=C2N=CNC2=NC=N1 | C5H3ClN4
reactant | 3,4-dihydro-2H-pyran | 492 mmol, 44.9 mL | O1CCCC=C1 | C5H8O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
catalyst | 4-methylbenzenesulfonic acid | 3.28 mmol, 0.565 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
product | 6-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 38.90 g, 99.3% yield | ClC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11ClN4O
